US04649220
PREPARATION OF BENZYLTRIETHYLAMMONIUM CHLORIDE
In the manner described in Example 4, 101 g of triethylamine (1 mole) was dissolved in 200 g of polydimethylsiloxane. 137 g (1 mole) of benzyl chloride was stirred into this solution. After a reaction time of 5 hours at 80° C., a large amount of solid had formed, which was filtered out and washed with methyl ethyl ketone.

reactant | triethylamine | 1 mole, 101 g | C(C)N(CC)CC | C6H15N
reactant | benzyl chloride | 1 mole, 137 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | polydimethylsiloxane | 200 g | C[Si](O[*:2])(C)[*:1]
product | BENZYLTRIETHYLAMMONIUM CHLORIDE | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC | InChI=1S/C13H22N.ClH/c1-4-14(5-2,6-3)12-13-10-8-7-9-11-13;/h7-11H,4-6,12H2,1-3H3;1H/q+1;/p-1
